US05298625
Sodium iodide (228 g) was dissolved in acetone (135 mL) and cooled to 0° C. 4-chloro-3-oxobutanoic acid, ethyl ester (5.0 g) was added to the sodium iodide solution and the mixture was stirred at 0° C. for 20 minutes It was diluted with pentane (135 mL) and water (135 mL). The reaction mixture was diluted with ethyl acetate and washed with water, brine and dried over anhydrous sodium sulfate to give an intermediate (4-Iodo-3-oxobutanoic acid, ethyl ester; 6.2 g yield).

reactant | Sodium iodide | 228 g | [I-].[Na+]
reactant | 4-chloro-3-oxobutanoic acid, ethyl ester | 5.0 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | acetone | 135 mL | CC(=O)C | C3H6O
solvent | pentane | 135 mL | CCCCC | C5H12
solvent | water | 135 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Iodo-3-oxobutanoic acid, ethyl ester | ICC(CC(=O)OCC)=O | C6H9IO3
